US07109193B2
Step A. 2′-Chloro-2-chloro-5-methoxy-[1,1′-biphenyl]-4-carboxylic acid.
To a stirred solution of 4-iodo-5-chloro-2-methoxy benzoic acid (3.12 g, 10 mmol) in N,N-dimethylformamide (100 mL) was added 2-chloro phenyl boronic acid (5.07 g, 32.4 mmol) and potassium carbonate (12.73 g, 92 mmol). This mixture was purged with nitrogen and then treated with tetrakis(triphenylphosphine) palladium(0) (0.58 g, 0.5 mmol). The reaction was heated to reflux overnight, cooled, acidified with 2 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated to provide a nearly quantitative amount of the title acid which was used in the next step without further purification.

reactant | 4-iodo-5-chloro-2-methoxy benzoic acid | 10 mmol, 3.12 g | IC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H6ClIO3
reactant | 2-chloro phenyl boronic acid | 32.4 mmol, 5.07 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 92 mmol, 12.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.5 mmol, 0.58 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2′-Chloro-2-chloro-5-methoxy-[1,1′-biphenyl]-4-carboxylic acid | ClC1=C(C=CC=C1)C1=C(C=C(C(=C1)OC)C(=O)O)Cl | C14H10Cl2O3
